US05607898
1.04 Grams (26.1 mmol) of sodium hydroxide was dissolved in 20 ml of water, and 0.5 ml (8.7 mol) of bromine was added. Further, 0.93 g (2.9 mmol) of 6-acetyl-5,8-dichloro-4,4-dimethylthiochroman-1,1-dioxide was added, and the mixture was stirred for 3 hours. Then the mixture was heated at 100° C. for 5 hours. After the completion of the reaction, ethyl acetate was added, the mixture was liquid-separated, and hydrochloric acid was added to an aqueous layer to adjust the aqueous layer to a pH of 1. The extraction of the aqueous layer was carried out by adding ethyl acetate, and an organic layer was dried over anhydrous sodium sulfate. The ethyl acetate was distilled off under reduced pressure to give 0.84 g (yield 90%) of 5,8-dichloro-4,4-dimethylthiochroman-6-carboxylic acid-1,1-dioxide.

reactant | sodium hydroxide | 26.1 mmol | [OH-].[Na+]
reactant | bromine | 8.7 mol, 0.5 ml | BrBr | Br2
reactant | 6-acetyl-5,8-dichloro-4,4-dimethylthiochroman-1,1-dioxide | 2.9 mmol, 0.93 g | C(C)(=O)C=1C(=C2C(CCS(C2=C(C1)Cl)(=O)=O)(C)C)Cl | C13H14Cl2O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 5,8-dichloro-4,4-dimethylthiochroman-6-carboxylic acid-1,1-dioxide | 0.84 g, yield 90% | ClC1=C2C(CCS(C2=C(C=C1C(=O)O)Cl)(=O)=O)(C)C | C12H12Cl2O4S
